### PR TITLE
Move things upstream

### PR DESCRIPTION
**Pull request by DanGrayson**
Resolves https://github.com/UniMath/UniMath/issues/365

Also removed a file.

### CODE REVIEW

**Comment by benediktahrens** [comment]
Comes with a change in sub/coq.

**Comment by DanGrayson** [comment]
Thanks, fixed.

File: Makefile [hunk 1]
```diff
@@ -103,7 +103,8 @@ COQDEFS := --language=none																\
 	-r '/^[[:space:]]*Tactic[[:space:]]+Notation.*[[:space:]]"\([[:alnum:]'\''_]+\)"[[:space:]]/\1/'										\
 	-r '/^[[:space:]]*Delimit[[:space:]]+Scope[[:space:]]+[[:alnum:]'\''_]+[[:space:]]+with[[:space:]]+\([[:alnum:]'\''_]+\)[[:space:]]*\./\1/'
 
-$(foreach P,$(PACKAGES),$(eval TAGS-$P: $(filter UniMath/$P/%,$(VFILES)); etags -o $$@ $$^))
+$(foreach P,$(PACKAGES),$(eval VFILES_$P := $(filter UniMath/$P/%,$(VFILES))))
```
Comment (benediktahrens) [inline Makefile]: Could you explain this change to the Makefile, please?

File: UniMath/Foundations/PartA.v [hunk 2]
```diff
@@ -746,7 +802,59 @@ Proof. intros. destruct e. reflexivity. Defined.
 Definition transportfbinv {T} (P:T->Type) {t u:T} (e:t = u) (p:P u) : e#e#'p = p.
 Proof. intros. destruct e. reflexivity. Defined.
 
-Close Scope transport.
+Definition transport_type_path {X Y:Type} (p:X = Y) (x:X) :
```
Comment (benediktahrens) [inline UniMath/Foundations/PartA.v]: Would it be good to make this the definition of `cast`, instead of a consequence?

File: UniMath/Foundations/PartA.v [hunk 3]
```diff
@@ -746,7 +802,59 @@ Proof. intros. destruct e. reflexivity. Defined.
...
+Definition transportf_pathsinv0' {X} (P:X->UU) {x y:X} (p:x = y) (u:P x) (v:P y) :
+  p # u = v -> !p # v = u.
+Proof. intros ? ? ? ? ? ? ? e. induction p, e. reflexivity. Defined.
+
+Lemma transport_idfun {X} (P:X->UU) {x y:X} (p:x = y) (u:P x) :
+  transportf P p u = transportf (idfun _) (maponpaths P p) u.
+(* same as HoTT.PathGroupoids.transport_idmap_ap *)
+Proof. intros. induction p. reflexivity. Defined.
+
+Lemma transport_functions {X} {Y:X->Type} {Z:∏ x (y:Y x), Type}
```
Comment (benediktahrens) [inline UniMath/Foundations/PartA.v]: The use of `Type` is discouraged, I think.

File: UniMath/Foundations/PartA.v [hunk 4]
```diff
@@ -746,7 +802,59 @@ Proof. intros. destruct e. reflexivity. Defined.
...
+      {f f':∏ x : X, Y x} (p:f = f') (z:∏ x, Z x (f x)) x :
+    transportf (fun f => ∏ x, Z x (f x)) p z x =
+    transportf (Z x) (toforallpaths _ _ _ p x) (z x).
+Proof. intros. induction p. reflexivity. Defined.
+
+Definition transport_funapp {T} {X Y:T->Type}
```
Comment (benediktahrens) [inline UniMath/Foundations/PartA.v]: Again, use of `Type`.
Also, what happens if you use `{T}` instead of `{T : UU}`? What type is assigned to `T`?

File: UniMath/Foundations/PartA.v [hunk 5]
```diff
@@ -746,7 +802,59 @@ Proof. intros. destruct e. reflexivity. Defined.
...
+  (transportf (fun y => ∏ t, P t y) e k) t.
+Proof. intros. induction e. reflexivity. Defined.
+
+Definition helper_B {T} {Y} (f:T->Y) {y y':Y} (k:∏ t, y = f t) (e:y = y') t :
+  transportf (fun y => y = f t) e (k t)
+  =
+  (transportf (fun y => ∏ t, y = f t) e k) t.
+Proof. intros. exact (helper_A _ k e t). Defined.
+
+Definition maponpaths_pr1_pr2 {X} {P:X->UU} {Q:∏ x, P x->Type}
```
Comment (benediktahrens) [inline UniMath/Foundations/PartA.v]: `Type`

File: UniMath/Foundations/PartA.v [hunk 6]
```diff
@@ -2388,6 +2544,15 @@ Proof.
     reflexivity.
 Defined.
 
+(* associativity of ∑ *)
+Definition totalAssociativity {X:UU} {Y: ∏ (x:X), UU} (Z: ∏ (x:X) (y:Y x), UU) : (∑ (x:X) (y:Y x), Z x y) ≃ (∑ (p:∑ (x:X), Y x), Z (pr1 p) (pr2 p)).
```
Comment (benediktahrens) [inline UniMath/Foundations/PartA.v]: We should stick to one of `total2` and `total`, not mix them.

File: UniMath/Foundations/PartD.v [hunk 7]
```diff
@@ -419,6 +418,35 @@ Definition weqonsecbase {X Y : UU} (P : Y -> UU) (f : weq X Y)
   : weq (∏ y : Y, P y) (∏ x : X, P (f x))
   := weqpair _ (isweqmaponsec1 P f).
 
+Definition weqonsec {X Y} (P:X->Type) (Q:Y->Type)
```
Comment (benediktahrens) [inline UniMath/Foundations/PartD.v]: This one looks like a duplicate, but I am not sure. Also, `Type`...

File: UniMath/Foundations/Sets.v [hunk 8]
```diff
@@ -437,6 +440,14 @@ Proof.
   exact (pr1 p).
 Defined.
 
+Lemma squash_pairs_to_set_compute {Y : UU} {F : Y -> UU}
+      (i:isaset Y) (e:∏ y y', F y -> F y' -> y = y') {y} (f : F y) :
+  squash_pairs_to_set _ i e (hinhpr (y,,f)) = y.
+(* upstream *)
```
Comment (benediktahrens) [inline UniMath/Foundations/Sets.v]: Comment `upstream` can be removed?

File: UniMath/Foundations/Sets.v [hunk 9]
```diff
@@ -458,6 +469,14 @@ Proof.
   exact (pr1 p).
 Defined.
 
+Lemma squash_to_set_compute {X Y : UU} (is : isaset Y) (f : X -> Y)
+      (e:∏ x x', f x = f x') x :
+  squash_to_set is f e (hinhpr x) = f x.
+(* upstream *)
```
Comment (benediktahrens) [inline UniMath/Foundations/Sets.v]: Again, comment `upstream`.

File: UniMath/Foundations/UnivalenceAxiom.v [hunk 10]
```diff
@@ -32,11 +32,24 @@ consequences of univalence, rather than the theorems giving the implications.
 
 Require Export UniMath.Foundations.PartB.
 
-(* everything related to eta correction is obsolete *)
-
 Definition eqweqmap { T1 T2 : UU } : T1 = T2 -> T1 ≃ T2.
 Proof. intro e. induction e. apply idweq. Defined.
 
+Definition eqweqmap_ap {T} (P:T->Type) {t t':T} (e:t = t') (f:∏ t:T, P t) :
+  eqweqmap (maponpaths P e) (f t) = f t'. (* move near eqweqmap *)
```
Comment (benediktahrens) [inline UniMath/Foundations/UnivalenceAxiom.v]: remove comment

File: UniMath/Foundations/UnivalenceAxiom.v [hunk 11]
```diff
@@ -32,11 +32,24 @@ consequences of univalence, rather than the theorems giving the implications.
...
+Proof. intros. induction e. reflexivity. Defined.
+
+Definition eqweqmap_ap' {T} (P:T->Type) {t t':T} (e:t = t') (f:∏ t:T, P t) :
+  invmap (eqweqmap (maponpaths P e)) (f t') = f t. (* move near eqweqmap *)
```
Comment (benediktahrens) [inline UniMath/Foundations/UnivalenceAxiom.v]: remove comment

File: Makefile (hunk 1 above)
Comment (DanGrayson) [inline Makefile]: The Makefile already allowed for making not only the file TAGS, but also a tags file for each package, e.g., TAGS-Ktheory.  But the etags command for them was lacking the command line options that allowed it to locate the Coq definitions.  I also made those other TAGS file depend on the Makefile, so they would get remade if the Makefile changed, for example, if the command line options are changed.

File: UniMath/Combinatorics/FiniteSets.v [hunk 12]
```diff
@@ -206,6 +206,12 @@ Defined.
 
 Definition cardinalityFiniteSet (X:FiniteSet) : nat := fincard (pr2 X).
 
+Lemma fincard_compute {n} {F:FiniteSet} : nelstruct n F -> cardinalityFiniteSet F = n.
+(* upstream *)
```
Comment (DanGrayson) [inline UniMath/Combinatorics/FiniteSets.v]: That's an obsolete comment, will remove.

File: UniMath/Foundations/PartA.v (hunk 2 above)
Comment (DanGrayson) [inline UniMath/Foundations/PartA.v]: That's a good idea to keep in mind for later.

File: UniMath/Foundations/PartA.v (hunk 3 above)
Comment (DanGrayson) [inline UniMath/Foundations/PartA.v]: will fix

File: UniMath/Foundations/PartA.v (hunk 4 above)
Comment (DanGrayson) [inline UniMath/Foundations/PartA.v]: Sometimes Type, sometimes UU.  It depends on whether T gets used as a parameter in something that accepts only UU.  Will fix.

If we eventually get universe management working again, Coq will tell us where we have a problem, or take care of it for us, so we don't have to worry about this sort of thing, since it won't, at the moment, affect whether a proof is acceptable.

File: UniMath/Foundations/PartA.v (hunk 5 above)
Comment (DanGrayson) [inline UniMath/Foundations/PartA.v]: fixing...

File: UniMath/Foundations/PartA.v (hunk 6 above)
Comment (DanGrayson) [inline UniMath/Foundations/PartA.v]: Well, but here I was using the English word "total", as in "total space", not the identifier "total2", in which case I would have put an underscore after it.

**Comment by benediktahrens** [comment]
On 02/22/2017 01:28 PM, Daniel R. Grayson wrote:
> DanGrayson commented on this pull request.
> 
> 
> 
>> @@ -2388,6 +2544,15 @@ Proof.
> reflexivity. Defined.
> 
> +(* associativity of ∑ *) +Definition totalAssociativity {X:UU} {Y: ∏
> (x:X), UU} (Z: ∏ (x:X) (y:Y x), UU) : (∑ (x:X) (y:Y x), Z x y) ≃ (∑
> (p:∑ (x:X), Y x), Z (pr1 p) (pr2 p)).
> 
> Well, but here I was using the English word "total", as in "total
> space", not the identifier "total2", in which case I would have put
> an underscore after it.

Well, that explanation makes it much easier to remember...

Anyway, is this not the same as weqtotal2asstor or something like that?

File: UniMath/Foundations/PartD.v (hunk 7 above)
Comment (DanGrayson) [inline UniMath/Foundations/PartD.v]: I think it's not a duplicate.

File: UniMath/Foundations/Sets.v (hunk 8 above)
Comment (DanGrayson) [inline UniMath/Foundations/Sets.v]: ok

File: UniMath/Foundations/Sets.v (hunk 9 above)
Comment (DanGrayson) [inline UniMath/Foundations/Sets.v]: ok

**Comment by DanGrayson** [comment]
Yes, there are a zillion of those things.  I thought this one was different at the time...

**Comment by DanGrayson** [comment]
Re: "In general, I'd prefer if changes to the Makefile were in separate PRs, for easier rollback in case of problems."

Okay, but rollback would still be almost trivial.  And I'll be around.

**Comment by DanGrayson** [comment]
Closing, see https://github.com/UniMath/UniMath/pull/592#issuecomment-281873412

**Comment by benediktahrens** [comment]
On 02/23/2017 03:54 AM, Daniel R. Grayson wrote:
> Closing, see https://github.com/UniMath/UniMath/pull/592#issuecomment-281873412

I would like us to pursue the idea with an additional package "between"
Foundations and the other packages.

Would it make sense to pursue that project in this PR?

In TypeTheory, we have a package "Auxiliary" where we have a few helper
files:

- a file listing "Require Export"s that we frequently need
- a file that serves as basin for basic results

Something similar should happen here.

**Comment by vladimirias** [comment]
I still have not submitted the grant application and over the head in other stuff as well. I want to participate :)

Maybe something temporary just to get all of this “move upstream” work merged.
